* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft1.asc
I1 d e 0.0003
R1 a b 6k
R2 a d 5k
R3 c 0 8k
R4 e 0 9k
R5 a 0 7k
V1 a f SINE(0 1 1K)
L1 b c 0.004
V2 f 0 2
.tran 10m
.backanno
.end
